US05462976
(2) Synthesis of Nα-Cinnamoyl-L-lysine
Nε-t-Butoxycarbonyl-L-lysine (2.58 g) was dissolved in 50 ml of dimethylformamide, and 30 ml of anhydrous pyridine was added to the solution. To the mixture was added a solution of cinnamoyl chloride in chloroform (1.665 g/20 ml) was added, and the reaction was carried out at 40° C. The reaction mixture was concentrated to dryness under reduced pressure, the residue was dissolved in 3.6N HCl/dioxane (33 ml) and, after 4 hours of standing, the solution was concentrated under reduced pressure to give the desired compound (2.43 g; hereinafter referred to as compound B).

reactant | Nε-t-Butoxycarbonyl-L-lysine | 2.58 g | C(C)(C)(C)OC(=O)NCCCC[C@H](N)C(=O)O | C11H22N2O4
reactant | pyridine | 30 ml | N1=CC=CC=C1 | C5H5N
reactant | cinnamoyl chloride | C(C=CC1=CC=CC=C1)(=O)Cl | C9H7ClO
solvent | dimethylformamide | 50 ml | CN(C=O)C | C3H7NO
solvent | chloroform | 20 ml, 1.665 g | C(Cl)(Cl)Cl | CHCl3
product | Nα-Cinnamoyl-L-lysine | C(C=CC1=CC=CC=C1)(=O)N[C@@H](CCCCN)C(=O)O | C15H20N2O3
